US06004984
Step 1E 2-[3-(2-Aminoethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-1-(7-azabicyclo[2.2.1]hept-7-yl)-2-methyl-propan-1-one
To a solution of {2-[5-[2-(7-azabicyclo[2.2.1]hept-7-yl)-1,1-dimethyl-2-oxo-ethyl]-2-(3,5-dimethylphenyl)-1H-indol-3-yl]ethyl} carbamic acid tert-butyl ester (728 mg in 30 mL methylene chloride) at 0° C. was added 1.5 mL anisole followed by 10.5 mL trifluoroacetic acid and the mixture stirred at 0° C. After 2 hours, the mixture was concentrated in vacuo and the residual acid quenched by the addition of 10% ammonium hydroxide in methanol. The concentrated was then purified by flash chromatography on silica gel (methylene chloride:10% ammonium hydroxide in methanol, 95:5; then 92:8) to give the title compound (627 mg).

reactant | anisole | 1.5 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 10.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | {2-[5-[2-(7-azabicyclo[2.2.1]hept-7-yl)-1,1-dimethyl-2-oxo-ethyl]-2-(3,5-dimethylphenyl)-1H-indol-3-yl]ethyl} carbamic acid tert-butyl ester | 30 mL, 728 mg | C(C)(C)(C)OC(NCCC1=C(NC2=CC=C(C=C12)C(C(=O)N1C2CCC1CC2)(C)C)C2=CC(=CC(=C2)C)C)=O | C33H43N3O3
product | 2-[3-(2-Aminoethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-1-(7-azabicyclo[2.2.1]hept-7-yl)-2-methyl-propan-1-one | 627 mg | NCCC1=C(NC2=CC=C(C=C12)C(C(=O)N1C2CCC1CC2)(C)C)C2=CC(=CC(=C2)C)C | C28H35N3O
